US04352811
Magnesium metal (98.2 g) was stirred with 100 ml of anhydrous ether under nitrogen for 1 hr. 4-Fluorobromobenzene (700 g) was dissolved in 1750 ml of anhydrous ether. A 20 ml aliquot of the solution was added to the magnesium metal to initiate reaction. Once reflux had begun, the 4-fluorobromobenzene solution was added at such a rate as to maintain a gentle reflux. After the addition was complete, the mixture was heated under reflux for 1 hr. Ethyl cylopropylcarboxylate (180.6 g) was dissolved in 500 ml of anhydrous ether. After the Grignard solution had been cooled to ambient temperature, the solution was added dropwise such that a gentle reflux was maintained. After complete addition of the ester, the mixture was heated under reflux for 45 mins and cooled to ambient temperature. The reaction mixture was quenched with 500 ml of saturated aqueous ammonium chloride and 2 l of ice water. The ether layer was separated and the aqueous layer was extracted twice with ether. The ether extracts were combined and washed with water and saturated brine. The ethereal mixture was dried over sodium sulfate, filtered and the solvent removed under vacuum to provide a quantitative yield or cyclopropyl-bis-(4-fluorophenyl)methanol.

reactant | Magnesium | 98.2 g | [Mg] | Mg
reactant | 4-Fluorobromobenzene | 700 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | Ethyl cylopropylcarboxylate | 180.6 g | C1(CC1)C(=O)OCC | C6H10O2
solvent | ether | 1750 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | cyclopropyl-bis-(4-fluorophenyl)methanol | quantitative yield | C1(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H14F2O
